US08034812B2
Production of N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-methoxyphenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide
Using N-[6-(3-amino-4-methoxyphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (200 mg, 0.59 mmol), N,N-dimethylacetamide (4.0 mL) and 1,3-dimethyl-1H-pyrazole-5-carbonyl chloride (113 mg, 0.71 mmol), and in the same manner as in Example 120, the title compound (146 mg, 54%) was obtained as a white powder.

reactant | N-[6-(3-amino-4-methoxyphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.59 mmol, 200 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1OC | C17H17N5O3
reactant | 1,3-dimethyl-1H-pyrazole-5-carbonyl chloride | 0.71 mmol, 113 mg | CN1N=C(C=C1C(=O)Cl)C | C6H7ClN2O
solvent | N,N-dimethylacetamide | 4.0 mL | CN(C(C)=O)C | C4H9NO
product | N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-methoxyphenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide | 146 mg, 54% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=CC(=C(C2)NC(=O)C2=CC(=NN2C)C)OC)C1 | C23H23N7O4
